US05455273
a) trans-4-[4-(3-acetoxypropyl)methylaminomethylphenyl]-N-acetyl-N-benzylcyclohexylamine
from trans-N-acetyl-N-benzyl-4-[4-(3-hydroxypropyl)-methylaminomethylphenyl]cyclohexylamine and acetylchloride. Oil. Rf value: 0.67 (alumina, ethyl acetate/petroleum ether=1:1, v:v).

reactant | trans-N-acetyl-N-benzyl-4-[4-(3-hydroxypropyl)-methylaminomethylphenyl]cyclohexylamine | C(C)(=O)N(CC1=CC=CC=C1)[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)CCCO)CNC | C26H36N2O2
reactant | acetylchloride | C(C)(=O)Cl | C2H3ClO
product | trans-4-[4-(3-acetoxypropyl)methylaminomethylphenyl]-N-acetyl-N-benzylcyclohexylamine | C(C)(=O)OCCCC1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)N(CC1=CC=CC=C1)C(C)=O)CNC | C28H38N2O3
